US05567717
A mixture of ethyl β-(5-methyl-2-furanyl)acrylate (8 g) in methanol (200 mL) and 1.5 g of 5% palladium on carbon was placed on a Paar hydrogenator and hydrogenated with H2. Palladium on carbon was filtered off by passing the reaction mixture through Super-Cel™ (filter agent) and the residue was washed with ethanol. The filtrate was concentrated in vacuo to yield 8 g of methyl 3-(5-methyl-2-furanyl)propionate.

reactant | ethyl β-(5-methyl-2-furanyl)acrylate | 8 g | CC1=CC=C(O1)C=CC(=O)OCC | C10H12O3
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | methyl 3-(5-methyl-2-furanyl)propionate | 8 g | CC1=CC=C(O1)CCC(=O)OC | C9H12O3
